US05852014
Methyl 1,2,3,4-tetrahydropyrimido[1,2-a]indole-10-Carboxylate
A solution of methyl 2-chloroindole-3-carboxylate (D11a, 1.5 g, 0.0071 mole) in THF (30 ml) under argon was treated with sodium hydride (215 mg of 80% oil dispersion, 0.0071 mole) and stirred for 20 minutes. The resulting solution was treated with a solution of 3-bromopropylamine (0.0093 mole) in toluene (15 ml) and a white gelatinous precipitate formed. This mixture was diluted with more THF (30 ml) and heated under reflux for 18 h, then concentrated in vacuo and the residue shaken well with ethyl acetate (40 ml) and 10% Na2CO3 solution (30 ml). The organic layer was separated, dried (Na2SO4) and concentrated in vacuo to leave a beige solid. This was chromatographed on silica gel eluting with ether/60-80 petrol (1:1) to afford unreacted starting material (600 mg) and the title compound (D 18) as a white solid (110 mg, 6%).

reactant | methyl 2-chloroindole-3-carboxylate | 0.0071 mole, 1.5 g | ClC=1NC2=CC=CC=C2C1C(=O)OC | C10H8ClNO2
reactant | sodium hydride | 0.0071 mole, 215 mg | [H-].[Na+]
reactant | 3-bromopropylamine | 0.0093 mole | BrCCCN | C3H8BrN
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | Methyl 1,2,3,4-tetrahydropyrimido[1,2-a]indole-10-Carboxylate | 110 mg, 6% | N1CCCN2C1=C(C=1C=CC=CC21)C(=O)OC | C13H14N2O2
